US07772226B2
(a) t-Butyl 4-[1-(2-butynyl)-4-hydroxymethyl-5-thiocarbamoyl-1H-imidazol-2-yl]piperazine-1-carboxylate
10 ml of a 50% aqueous solution of ammonium sulfide was added to a 50 ml ethanol solution of 3.596 g of t-butyl 4-[1-(2-butynyl)-5-cyano-4-hydroxymethyl-1H-imidazol-2-yl]piperazine-1-carboxylate, and the mixture was stirred at room temperature for 16 hours. 400 ml of ethyl acetate was added to the solution, and the mixture was washed three times with 100 ml of water and then with 100 ml of a saturated sodium chloride solution. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 3.221 g of the title compound was obtained from the fraction eluted with ethyl acetate-hexane (4:1).

reactant | ammonium sulfide | [NH4+]=S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | t-butyl 4-[1-(2-butynyl)-5-cyano-4-hydroxymethyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 3.596 g | C(C#CC)N1C(=NC(=C1C#N)CO)N1CCN(CC1)C(=O)OC(C)(C)C | C18H25N5O3
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | t-Butyl 4-[1-(2-butynyl)-4-hydroxymethyl-5-thiocarbamoyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 3.221 g | C(C#CC)N1C(=NC(=C1C(N)=S)CO)N1CCN(CC1)C(=O)OC(C)(C)C | C18H27N5O3S
